US08754209B2
To a stirred solution of 6-bromo-1H-indazole-3-carboxylic acid (5 g, 21 mmol) in ethanol (160 Ml), thionyl chloride (8 Ml, 104 mmol; SOCl2) was added. The mixture was refluxed for 3 h, cooled to room temperature, and concentrated under reduced pressure. Ethyl acetate was added. The organic layer was washed with saturated sodium bicarbonate solution, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by flash column chromatography (silica gel, DCM:MeOH=9:1) to give ethyl 6-bromo-1H-indazole-3-carboxylate (2.8 g).

reactant | 6-bromo-1H-indazole-3-carboxylic acid | 21 mmol, 5 g | BrC1=CC=C2C(=NNC2=C1)C(=O)O | C8H5BrN2O2
reactant | thionyl chloride | 104 mmol | S(=O)(Cl)Cl | Cl2OS
reactant | ethanol | C(C)O | C2H6O
product | ethyl 6-bromo-1H-indazole-3-carboxylate | 2.8 g | BrC1=CC=C2C(=NNC2=C1)C(=O)OCC | C10H9BrN2O2
